US04619941
N-[3-(2-Methyl-1H-imidazol-1-yl)propyl]-1H-indole2-carboxamide
A mixture of 3.23 g of indole-2-carboxylic acid and 3.24 g of 1,1'-carbonyldiimidazole in 60 ml of tetrahydrofuran was stirred at room temperature for 2 hours. Then 2.78 g of 2-methyl-1H-imidazolepropanamine was added and stirring was continued for 16 hours. The mixture was then heated at reflux for 2 hours, 15 ml of water was added and heating was continued for one hour longer. The mixture was concentrated and about 70 ml of dichloromethane was added plus 10 ml of 1N sodium hydroxide with swirling. The precipitate which formed was collected by filtration, washed with water and gave 4.8 g of the desired compound as white crystals, mp 235°-237° C.

reactant | indole-2-carboxylic acid | 3.23 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 1,1'-carbonyldiimidazole | 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-methyl-1H-imidazolepropanamine | 2.78 g | CC1(NC=CN1)CCCN | C7H15N3
reactant | water | 15 ml | O | H2O
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-[3-(2-Methyl-1H-imidazol-1-yl)propyl]-1H-indole2-carboxamide | 4.8 g | CC=1N(C=CN1)CCCNC(=O)C=1NC2=CC=CC=C2C1 | C16H18N4O
